US07160888B2
An intermediate, 1-(2-Chloro-3-trifluoromethyl-phenyl)-piperazine was produced as follows: To a stirred solution of trifluoro-methanesulfonic acid 2-chloro-3-trifluoromethyl-phenyl ester (5.0 g, 15.20 mmol) in toluene (50 mL) at room temperature, was added 1-boc-piperazine (3.39 g, 18.20 mmol), tris-(dibenzylideneacetone)di-palladium(0) (Pd2(dba)3) (3.49 g, 38.10 mmol), tert-2,2′-bis(diphenyl)phosphino-1,1′-binaphthyl (BINAP) (4.27 g, 68.60 mmol) and sodium tert-butoxide (2.04 g, 21.30 mmol). The mixture was degassed, filled with N2, degassed and heated at 80° C. for 1.5 h. The mixture was diluted with ethyl acetate, celite was added and the mixture was stirred at room temperature for 15 min. It was filtered through a pad of silica gel and the pad was washed with additional amounts of ethyl acetate, The combined solvent was removed in vacuo and the residue was purified on a silica gel column using hexanes-ethyl acetate (5:1) as eluent to give 4-(2-chloro-3-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (2.30 g, 42%) as an oil. 1H NMR (400 MHz, CDCl3): δ 7.35 (m, 2H), 7.22 (d, 1H), 3.62 (br s, 4H), 3.05 (br s, 4H), 1.55 (s, 9H).

reactant | trifluoro-methanesulfonic acid 2-chloro-3-trifluoromethyl-phenyl ester | 15.20 mmol, 5.0 g | ClC1=C(C=CC=C1C(F)(F)F)OS(=O)(=O)C(F)(F)F | C8H3ClF6O3S
reactant | 1-boc-piperazine | 18.20 mmol, 3.39 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | sodium tert-butoxide | 21.30 mmol, 2.04 g | CC(C)([O-])C.[Na+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris-(dibenzylideneacetone)di-palladium(0) | 38.10 mmol, 3.49 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(2-chloro-3-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 2.30 g, 42% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC=C1)C(F)(F)F)Cl | C16H20ClF3N2O2
